US07557111B2
Synthesis of {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol hydrochloride (compound 1-004)
To a suspension of {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol (568 mg) in a mixture (1:1) of EtOH and EtOAc (2 mL) was added 4 M HCl in EtOAc (0.37 mL) under ice-cooling. The mixture was stirred overnight to afford a white crystal. The crystal was collected by filtration to give the title compound (532 mg).

reactant | {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol | 568 mg | BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | C22H26BrN3OS
reactant | EtOH | CCO | C2H6O
reactant | HCl | 4 M | Cl | ClH
solvent | EtOAc | 0.37 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | {1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,6-dimethyl-thieno[3,2-d]pyrimidin-4-yl]-piperidin-4-yl}-methanol hydrochloride | 532 mg | Cl.BrC1=CC(=C(C(=C1)C)C1=C(SC2=C1N=C(N=C2N2CCC(CC2)CO)C)C)C | InChI=1S/C22H26BrN3OS.ClH/c1-12-9-17(23)10-13(2)18(12)19-14(3)28-21-20(19)24-15(4)25-22(21)26-7-5-16(11-27)6-8-26;/h9-10,16,27H,5-8,11H2,1-4H3;1H
